US08791132B2
To a solution of 9-methyl-2,3,4,5,6,10c-hexahydro-1H-3a,6-diaza-cyclopenta[c]fluorene (100 mg, 0.422 mmol) in DMF (1 mL) was added sodium hydride (53 mg, 1.326 mmol). After stirring for 5 min, a solution of toluene-4-sulfonic acid 2-(6-methyl-pyridin-3-yl)-ethyl ester (386 mg, 1.326 mmol) in DMF (1 mL) was added dropwise at 0° C. and the reaction mixture stirred at RT for 6 h. The progress of reaction was monitored by TLC and LCMS. The reaction mixture was poured into ice-cold water and extracted with EtOAc (3×25 mL). The combined organic layer was washed with water (5×20 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by reverse phase HPLC to yield 9-methyl-6-[2-(6-methyl-pyridin-3-yl)-ethyl]-2,3,4,5,6,10c-hexahydro-1H-3a, 6-diaza-cyclopenta[c]fluorene. 1H NMR, (CDCl3, freebase) δ (ppm): 8.07 (s, 1H), 7.28 (m, 2H), 7.07 (d, 1H), 7.0 (s, 2H), 4.72 (m, 1H), 4.3 (m, 1H), 4.18 (m, 1H), 3.31 (m, 1H), 3.2 (m, 1H), 3.12 (m, 1H), 3.0 (m, 2H), 2.7 (m, 1H), 2.51 (m, 1H), 2.5 (s, 3H), 2.48 (s, 3H), 2.4 (d, 1H), 2.28 (m, 1H), 2.2 (m, 1H), 2.0 (m, 1H), 1.8 (m, 1H). Chiral HPLC provided enantiomers 197a and 197b.

reactant | 9-methyl-2,3,4,5,6,10c-hexahydro-1H-3a,6-diaza-cyclopenta[c]fluorene | 0.422 mmol, 100 mg | CC1=CC=2C=3C4N(CCC3NC2C=C1)CCC4 | C15H18N2
reactant | sodium hydride | 1.326 mmol, 53 mg | [H-].[Na+]
reactant | toluene-4-sulfonic acid 2-(6-methyl-pyridin-3-yl)-ethyl ester | 1.326 mmol, 386 mg | CC1=CC=C(C=N1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C15H17NO3S
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 9-methyl-6-[2-(6-methyl-pyridin-3-yl)-ethyl]-2,3,4,5,6,10c-hexahydro-1H-3a, 6-diaza-cyclopenta[c]fluorene | CC1=CC=2C=3C4N(CCC3N(C2C=C1)CCC=1C=NC(=CC1)C)CCC4 | C23H27N3
